US07098222B2
6-[2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-2-(2-phenyl-thiazol-5-yl)-quinoline
The title compound was prepared using the procedure described in Example 1G substituting 1-(2-phenyl-thiazol-5-yl)-ethanone (Arcadi, A., et al. Eur. J. Org. Chem. 1999, 11, p. 3117-3126) for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.13 (d, J=6.10 Hz, 3H), 1.46 (m, 1H), 1.78 (m, 2H), 1.95 (m, 1H), 2.24 (q, J=8.82 Hz, 1H), 2.39 (m, 2H), 3.01 (m, 2H), 3.13 (m, 1H), 3.29 (td, J=8.48, 2.71 Hz, 1H), 7.47 (m, 3H), 7.61 (m, 2H), 7.81 (d, J=8.48 Hz, 1H), 8.03 (m, 3H), 8.12 (d, J=8.48 Hz, 1H), 8.38 (s, 1H); MS (DCI-NH3) [M+H]+ at 400.

reactant | 1-(2-phenyl-thiazol-5-yl)-ethanone | C1(=CC=CC=C1)C=1SC(=CN1)C(C)=O | C11H9NOS
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 6-[2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-2-(2-phenyl-thiazol-5-yl)-quinoline | C[C@H]1N(CCC1)CCC=1C=C2C=CC(=NC2=CC1)C1=CN=C(S1)C1=CC=CC=C1 | C25H25N3S
